US07902194B2
6-tert-Butyl-2H-phthalazin-1-one
2.9 g (12 mmol) of 5-tert-butyl-3-ethoxy-3H-isobenzofuran-1-one was weighed into a 50 mL round bottom flask fitted with a stir bar and cap. Added 10 mL (130 mmol) of hydrazine monohydrate. Added 15 mL of glacial acetic acid. Stirred at 100° overnight. Poured the reaction mixture into 200 mL of stirred water. Collected the solids by filtration and washed with water. Dried under high vacuum to obtain 2.24 g of the title compound as an off-white solid. MS (ESI) 203 (M+H)+.

reactant | 5-tert-butyl-3-ethoxy-3H-isobenzofuran-1-one | 12 mmol, 2.9 g | C(C)(C)(C)C=1C=C2C(OC(C2=CC1)=O)OCC | C14H18O3
reactant | hydrazine monohydrate | 130 mmol, 10 mL | O.NN
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | 6-tert-Butyl-2H-phthalazin-1-one | 2.24 g | C(C)(C)(C)C=1C=C2C=NNC(C2=CC1)=O | C12H14N2O
